US06069176
N-Benzyl-N-[3-(3,4-dimethoxyphenyl)cyclohexyl]amine (3.16 g) was dissolved in ethyl acetate, 4 N HCl-ethyl acetate solution was added, and the mixture was stirred at room temperature for 30 minutes. After concentrating the solvent under reduced pressure, it was dissolved in acetic acid (100 ml), and 10% palladium-carbon (640 mg) was added thereto. After substituting the reaction vessel with hydrogen gas, hydrogen addition was effected for 3 hours at normal pressure, at 80° C. After the reaction, the catalyst was filtered off and the solvent was distilled off under reduced pressure to produce crude crystals which were then washed with diethyl ether to give 2.80 g of 3-(3,4-dimethoxyphenyl)cyclohexylamine hydrochloride (quantitative yield).

reactant | N-Benzyl-N-[3-(3,4-dimethoxyphenyl)cyclohexyl]amine | 3.16 g | C(C1=CC=CC=C1)NC1CC(CCC1)C1=CC(=C(C=C1)OC)OC | C21H27NO2
reactant | HCl ethyl acetate | 4 N | Cl.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3,4-dimethoxyphenyl)cyclohexylamine hydrochloride | 2.80 g, quantitative yield | Cl.COC=1C=C(C=CC1OC)C1CC(CCC1)N | InChI=1S/C14H21NO2.ClH/c1-16-13-7-6-11(9-14(13)17-2)10-4-3-5-12(15)8-10;/h6-7,9-10,12H,3-5,8,15H2,1-2H3;1H
